2169-06-06 06:41:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   Pt tolerated CPAP well overnight. Resting comfortably. Continued on
   Vancomycin and Cefepime. Afebrile.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2169-6-5**] 04:17 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-6-6**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.2
   HR: 78 (75 - 92) bpm
   BP: 126/75(125) {122/34(64) - 157/78(125)} mmHg
   RR: 26 (20 - 39) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                    177 mL
                                                                    306 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    177 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                      0 mL
   Urine:
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -573 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 92%
   ABG: 7.33/72/121/39/9
   PaO2 / FiO2: 151
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology:
   CXR [**6-5**]
   Despite limitations of study, no apparent change of chronic
   bibasilar opacities from seven months prior.
   MICRO: BCx - NGTD
   239 K/uL
   12.3 g/dL
   140 mg/dL
   1.5 mg/dL
   39 mEq/L
   5.0 mEq/L
   30 mg/dL
   95 mEq/L
   140 mEq/L
   40.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2169-6-5**]  05:24 PM
                             [**2169-6-6**]  03:58 AM
   WBC
   4.0
   Hct
   40.1
   Plt
   239
   Cr
   1.5
   TropT
   0.02
   TCO2
   40
   Glucose
   140
   Other labs: CK / CKMB / Troponin-T:81/3/0.02, Differential-Neuts:81.7
   %, Lymph:17.1 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   /P: [**Age over 90 382**] yom NH resident, pmh of severe pneumonia presenting currently
   with cough, fever, and dyspnea without improvement with antibiotics.
   1. Hypoxia:  Differential includes CHF exacerbation, PNA (aspiration or
   healthcare associated), PE (less likely given therapeutic INR).  No
   significant change on CXR,  but clinically appears to be in fluid
   overload.  As well has history of swallowing difficulties and may have
   aspirated causing this presentation.  Elevated BNP makes fluid overload
   more likely, concerning for fluid in CXR fissure.
   - treat for health care acquired pneumonia with vanc/cefepime
   - nebulizers  prn
   - Diurese to goal 1-2L negative
   - F/up blood cx/sputum cx/urine cx
   - Attempted foley placement but unsuccessful, follow weights.  Adm
   weight 99.2 kg
   2. Cardiovascular: PMH of CHF and currently appears to have volume
   overload.  Currently on digoxin for atrial fibrillation and coumadin.
   Will continue digoxin.  Will hold coumadin overnight while evaluating
   the patient, will restart in AM if patient is stable.
   -appears to have slow atrial fibrillation
   -echo/EKG in AM
   -r/o MI, first set negative
   -ASA
   3. Gout: cont allopurinol
   4. Hypothyroid: Synthroid
   5. FEN: Known swallowing difficulties, will keep NPO overnight,
   consider thickened liquids in AM.  Diurese as tolerated
   .
   6. Prophylaxis: hep sc, no indication now for bowel proph.  .
   .
   7. Comm: [**Name (NI) 391**] [**Name (NI) 2984**]: H [**Telephone/Fax (1) 2985**], w: [**Telephone/Fax (2) 2986**]
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2169-6-5**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2169-06-07 07:23:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Unknown;
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-6-6**] 08:10 AM
   Cefipime - [**2169-6-6**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-6-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 66 (65 - 84) bpm
   BP: 137/72(88) {88/44(56) - 142/72(88)} mmHg
   RR: 28 (23 - 33) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.8 kg (admission): 99.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,022 mL
                                                                     74 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    542 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   12.3 g/dL
   98 mg/dL
   1.5 mg/dL
   37 mEq/L
   4.2 mEq/L
   37 mg/dL
   95 mEq/L
   140 mEq/L
   39.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2169-6-5**]  05:24 PM
                             [**2169-6-6**]  03:58 AM
                             [**2169-6-7**]  05:30 AM
   WBC
   4.0
   5.7
   Hct
   40.1
   39.8
   Plt
   239
   251
   Cr
   1.5
   1.5
   TropT
   0.02
   TCO2
   40
   Glucose
   140
   98
   Other labs: PT / PTT / INR:23.2/30.8/2.2, CK / CKMB /
   Troponin-T:81/3/0.02, Differential-Neuts:81.7 %, Lymph:17.1 %, Mono:1.0
   %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   /P: [**Age over 90 382**] yom NH resident, pmh of severe pneumonia presenting currently
   with cough, fever, and dyspnea without improvement with antibiotics.
   1. Hypoxia:  Most  likely relate to CHF exacerbation and possible
   aspiration event. No clear infiltrate on CXR. Given pt
s tenious status
   and likely aspiration
 continued on Vanc/cefepime. Tolerated CPAP well
   overnight
   - treat for health care acquired pneumonia with vanc/cefepime  - pt w/
   hx bronchiectais. Plan for 7 day course.
   - F/up blood cx/sputum cx/urine cx
   - nebulizers  prn
   - Diurese to goal 1L negative
   - Attempted foley placement but unsuccessful, follow weights.  Adm
   weight 99.2 kg
   - Continue pm CPAP
   .
   2. Cardiovascular: PMH of CHF and currently appears to have volume
   overload.  Currently on digoxin for atrial fibrillation and coumadin.
   Will continue digoxin.  Continue coumadin.
   -appears to have slow atrial fibrillation
   -CE flat
   -ASA
   .
   3. Gout: cont allopurinol
   .
   4. Hypothyroid: Synthroid
   .
   5. FEN: aspiration precautions
   .
   6. Prophylaxis: hep sc, no indication now for bowel proph.  .
   .
   7. Comm: [**Name (NI) 391**] [**Name (NI) 2984**]: H [**Telephone/Fax (1) 2985**], w: [**Telephone/Fax (2) 2986**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-6-5**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2169-06-07 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Sputum decreased but still "congested"
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Levofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2169-6-6**] 04:30 PM
   Vancomycin - [**2169-6-7**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-6-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-6-7**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 73 (65 - 84) bpm
   BP: 120/81(89) {88/44(56) - 142/81(89)} mmHg
   RR: 26 (23 - 32) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.8 kg (admission): 99.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,022 mL
                                                                    788 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    542 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                    788 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse mid insp, Wheezes : scattered exp)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   251 K/uL
   98 mg/dL
   1.5 mg/dL
   37 mEq/L
   4.2 mEq/L
   37 mg/dL
   95 mEq/L
   140 mEq/L
   39.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2169-6-5**]  05:24 PM
                             [**2169-6-6**]  03:58 AM
                             [**2169-6-7**]  05:30 AM
   WBC
   4.0
   5.7
   Hct
   40.1
   39.8
   Plt
   239
   251
   Cr
   1.5
   1.5
   TropT
   0.02
   TCO2
   40
   Glucose
   140
   98
   Other labs: PT / PTT / INR:23.2/30.8/2.2, CK / CKMB /
   Troponin-T:81/3/0.02, Differential-Neuts:81.7 %, Lymph:17.1 %, Mono:1.0
   %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   Respiratory failure
   Bronchiectasis
   Anemia
   Weakness
   Continues to slowly improve. C/o continued congestion. Afebrile and
   sputum was oral secretions. Plan to d/c abx. This event appears to have
   been an aspiration w/o clear lower track infectious flare. Doubt any
   component of CHF
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2169-6-5**] 04:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes